US05498609
To a solution of 7-chloro-5-(4-t-butoxycarbonyl-1-piperazinyl)-carbonylmethyl-1-[6-(2-chlorobenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (1.2 g)in dioxane (20 ml)is added 5 N hydrochloric acid (2 ml), and the mixture is stirred at room temperature overnight. Water is added to the reaction mixture, and the mixture is made basic with aqueous sodium hydroxide solution, and extracted with dichloromethane. The extract is washed with water, dried over magnesium sulfate, and evaporated under reduced pressure to remove the solvent. The residue is purified by silica gel column chromatography, and recrystallized from ethyl acetate-diethyl ether to give 7-chloro-5-(1-piperazinyl)carboxymethyl-1-[6-(2-chlorobenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.54 g) as white powder.

reactant | 7-chloro-5-(4-t-butoxycarbonyl-1-piperazinyl)-carbonylmethyl-1-[6-(2-chlorobenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 1.2 g | ClC=1C=CC2=C(C(CCC(N2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)=O)C=C=O)N2CCN(CC2)C(=O)OC(C)(C)C)C1 | C34H35Cl2N5O5
reactant | hydrochloric acid | 5 N, 2 ml | Cl | ClH
reactant | Water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 7-chloro-5-(1-piperazinyl)carboxymethyl-1-[6-(2-chlorobenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.54 g | ClC=1C=CC2=C(C(CCC(N2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)=O)CC(=O)O)N2CCNCC2)C1 | C29H29Cl2N5O4
